US04540703
N-Ethyl-cyclohexylamine (2.6 g) is dissolved in dry benzene (20 ml). To the solution are added dropwise with stirring chloroacetyl chloride (2.6 g) and triethylamine (2.4 g) under ice-cooling. The mixture is stirred under ice-cooling for one hour and further at room temperature for one hour. The reaction mixture is poured onto ice-water and extracted with ether. The ether layer is washed with an aqueous sodium hydrogen carbonate solution and an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After distilling off the solvent, the resulting residue is distilled under reduced pressure to give N-ethyl-N-cyclohexyl-chloroacetamide (3 g), b.p. 118°-120° C./0.2 mmHg.

reactant | N-Ethyl-cyclohexylamine | 2.6 g | C(C)NC1CCCCC1 | C8H17N
reactant | chloroacetyl chloride | 2.6 g | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | N-ethyl-N-cyclohexyl-chloroacetamide | 3 g | C(C)N(C(CCl)=O)C1CCCCC1 | C10H18ClNO
